US09447097B2
b) 3-(2-(1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethylamino)propan-1-ol
2-(Ethoxymethyl)-1-[2-methyl-2-[2-(3-trityloxypropylamino)ethoxy]propyl]-imidazo[4,5-c]quinolin-4-amine (10 mg, 15.2 μmol) was combined with DCM (1 mL) to give a colorless solution. TFA (100 μl, 1.3 mmol) was added and the reaction mixture was stirred at room temperature for 5 hours. The mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel-NH2, 0% to 30% methanol in ethyl acetate) to give the title compound (2.3 mg, 36%) as colorless gum; LC-MS (UV peak area, ESI) 95.6%, 416.2661 (MH+).

reactant | 2-(Ethoxymethyl)-1-[2-methyl-2-[2-(3-trityloxypropylamino)ethoxy]propyl]-imidazo[4,5-c]quinolin-4-amine | 15.2 μmol, 10 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC(C)(OCCNCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C41H47N5O3
reactant | TFA | 1.3 mmol, 100 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-(1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethylamino)propan-1-ol | 2.3 mg, 36% | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(OCCNCCCO)C)COCC | C22H33N5O3
